US06323235B1
Methyl (3-(2-hydroxyethyl)-2-(1-propenyl)benzofuran-7-yloxy)acetate
3-(2-hydroxyethyl)-7-methoxy-2-(2-propenyl)benzofuran (1.43 g), n-propanethiol (0.84 ml) and potassium t-butoxide (968 mg) were dissolved in DMF (15 ml) and the solution was stirred at room temperature for 5 minutes and then at 100° C. for 5 hours. After cooling the reaction temperature to room temperature, methyl bromoacetate (0.87 ml) was added and the solution was stirred at room temperature for 2 hours. The reaction solution was poured into water (150 ml) and the resultant was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated aqueous sodium hydrogen carbonate solution and with saturated brine, followed by drying the resultant over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=3/1) using silica gel to obtain the desired compound (630 mg, yield: 35%).

reactant | 3-(2-hydroxyethyl)-7-methoxy-2-(2-propenyl)benzofuran | 1.43 g | OCCC1=C(OC2=C1C=CC=C2OC)CC=C | C14H16O3
reactant | n-propanethiol | 0.84 ml | C(CC)S | C3H8S
reactant | potassium t-butoxide | 968 mg | CC(C)([O-])C.[K+]
reactant | methyl bromoacetate | 0.87 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | Methyl (3-(2-hydroxyethyl)-2-(1-propenyl)benzofuran-7-yloxy)acetate | 630 mg, yield: 35% | OCCC1=C(OC2=C1C=CC=C2OCC(=O)OC)C=CC | C16H18O5
